US08383652B2
To a mixture of 122 g (709 mmol) of 3-bromoaniline, 99 mL of triethylamine (709 mmol) and 1 l of dichloromethane, 155 g (709 mmol) of di-tert-butyl dicarbonate are added portionwise, at room temperature. After stirring for 18 hours, the reaction medium is poured into ice-cold water and extracted with dichloromethane. The organic phase is separated out after settling of the phases, dried over magnesium sulfate, filtered and evaporated. 170 g (88%) of tert-butyl 3-bromophenylcarbamate are obtained.

reactant | 3-bromoaniline | 709 mmol, 122 g | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | triethylamine | 709 mmol, 99 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 709 mmol, 155 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 1 l | ClCCl | CH2Cl2
product | tert-butyl 3-bromophenylcarbamate | 170 g, 88% | BrC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C11H14BrNO2
